US07585845B2
To a solution of 2-methyl-3-tert-butoxynitrobenzene K3 (1.31 g; 6.26 mmol) in absolute ethanol (30 mL) was added 10% Pd/C catalyst (130 mg). The solution was hydrogenated under a hydrogen filled balloon at atmospheric pressure and room temperature for 63 h. The reaction mixture was filtered through a Celite pad, rinsed with absolute EtOH and evaporated to dryness to provide 2-methyl-3-tert-butoxyaniline K4 (1.1 g; 6.14 mmol; 98% yield). M.S. 180 (M+H)+. Homogeneity by HPLC (TFA) @220 nm: 96%

reactant | 2-methyl-3-tert-butoxynitrobenzene | CC1=C(C=CC=C1OC(C)(C)C)[N+](=O)[O-] | C11H15NO3
solvent | ethanol | 30 mL | C(C)O | C2H6O
catalyst | Pd/C | 130 mg | [Pd] | Pd
product | 2-methyl-3-tert-butoxyaniline | 98% yield | CC1=C(N)C=CC=C1OC(C)(C)C | C11H17NO
